US08026270B2
Ethyl (4-amino-3-fluorophenyl)acetate
Ethyl phenylmethyl (3-fluoro-4-nitrophenyl)propanedioate (11.66 g, 32.3 mmol), ammonium formate (10.2 g, 161.5 mmol) and 10% palladium on carbon (wet paste) (1.7 g, 0.8 mmol) was placed under argon and ethanol (300 ml) introduced. The reaction mixture was heated to 60° C. for 3 hours, cooled and filtered through celite under an argon atmosphere. Evaporated and purified by chromatography on silica gel eluting with 2-30% ethyl acetate in hexane to give the title compound as a yellow oil (5.22 g, 26.5 mmol). LC/MS: Rt=2.14, [MH]+ 198.

reactant | Ethyl phenylmethyl (3-fluoro-4-nitrophenyl)propanedioate | 32.3 mmol, 11.66 g | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C18H16FNO6
reactant | ammonium formate | 161.5 mmol, 10.2 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.8 mmol, 1.7 g | [Pd] | Pd
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | Ethyl (4-amino-3-fluorophenyl)acetate | 26.5 mmol, 5.22 g | NC1=C(C=C(C=C1)CC(=O)OCC)F | C10H12FNO2
